US09144239B2
Preparation of ((2-(((3S,7S,8S,9S)-8-(3-chlorophenoxy)-7-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl)oxy)methyl 2-ethoxyacetate
To a solution of N-((3S,7S,8S,9S)-8-(3-chlorophenoxy)-7-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide (85 mg, 0.163 mmol) in acetone (2.0 mL) was added Na2CO3 (34.5 mg, 0.325 mmol), NaI (4.87 mg, 0.033 mmol), and chloromethyl 2-ethoxyacetate (37.2 mg, 0.244 mmol). The reaction was warmed to 45° C. and stirred for 16 h. The reaction was then concentrated and the residue purified by flash chromatography (SiO2; EtOAc/Hexanes) to give the title compound as a white foam (72.2 mg, 69.5%): 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=8.0 Hz, 1H), 8.29 (d, J=5.4 Hz, 1H), 7.17 (t, J=8.2 Hz, 1H), 7.04 (t, J=2.2 Hz, 1H), 6.96 (d, J=5.4 Hz, 1H), 6.95-6.87 (m, 2H), 5.82 (s, 2H), 5.23-5.06 (m, 2H), 4.25 (t, J=9.1 Hz, 1H), 4.10 (s, 2H), 3.91 (s, 4H), 3.82 (dd, J=11.8, 5.3 Hz, 1H), 3.71 (dd, J=11.1, 7.4 Hz, 1H), 3.59 (q, J=7.0 Hz, 2H), 3.37 (ddd, J=8.9, 7.4, 1.6 Hz, 1H), 3.29 (dd, J=8.8, 6.3 Hz, 1H), 3.15 (dd, J=8.8, 6.4 Hz, 1H), 1.67-1.51 (m, 2H), 1.39 (d, J=6.3 Hz, 3H), 1.23 (t, J=7.0 Hz, 3H), 0.68 (dd, J=18.4, 6.7 Hz, 6H); 13C NMR (101 MHz, CDCl3) δ 170.88, 170.06, 163.23, 160.17, 145.87, 143.98, 141.92, 134.59, 129.98, 121.38, 116.68, 114.41, 109.87, 89.44, 83.42, 82.64, 78.00, 74.36, 74.08, 72.30, 67.80, 67.20, 56.25, 52.32, 28.62, 19.16, 19.06, 18.72, 15.01; HRMS-FAB (m/z) [M+H]+ calcd for C30H39ClN2O11, 639.2315; found, 639.2320.

reactant | N-((3S,7S,8S,9S)-8-(3-chlorophenoxy)-7-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide | 0.163 mmol, 85 mg | ClC=1C=C(O[C@@H]2[C@H](COC[C@@H](C(O[C@H]2C)=O)NC(C2=NC=CC(=C2O)OC)=O)OCC(C)C)C=CC1 | C25H31ClN2O8
reactant | Na2CO3 | 0.325 mmol, 34.5 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | 0.033 mmol, 4.87 mg | [Na+].[I-]
reactant | chloromethyl 2-ethoxyacetate | 0.244 mmol, 37.2 mg | C(C)OCC(=O)OCCl | C5H9ClO3
solvent | acetone | 2.0 mL | CC(=O)C | C3H6O
product | ((2-(((3S,7S,8S,9S)-8-(3-chlorophenoxy)-7-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl)oxy)methyl 2-ethoxyacetate | 72.2 mg, 69.5% | C(C)OCC(=O)OCOC=1C(=NC=CC1OC)C(N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCC(C)C)OC1=CC(=CC=C1)Cl)C)=O)=O | C30H39ClN2O11
